US06884868B1
A mixture of 4-bromo-4′-hydroxy-1,1′-biphenyl (5 g), cis-2,6-dimethylmorpholine, dichlorobis(tri-o-tolylphosphine)-palladium(II) and lithium bis(trimethylsilyl)amide (1.0 M solution in hexanes) (44 ml) in toluene (25 ml) was stirred for 6 hours at 100° C. The reaction mixture was added to a mixture of 1.0 mol/l hydrochloric acid and dichloromethane. The organic layer was washed with 1.0 mol/l hydrochloric acid, sodium hydrogen carbonate solution and sodium chloride solution. The organic layer was taken and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (50:1 dichloromethane-methanol elution) to give 4′-(cis-2,6-dimethylmorpholin-4-yl)-1,1′-biphenyl-4-ol (1.49 g).

reactant | 4-bromo-4′-hydroxy-1,1′-biphenyl | 5 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | cis-2,6-dimethylmorpholine | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 44 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hydrochloric acid | 1.0 mol/l | Cl | ClH
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4′-(cis-2,6-dimethylmorpholin-4-yl)-1,1′-biphenyl-4-ol | 1.49 g | C[C@@H]1CN(C[C@@H](O1)C)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C18H21NO2
